US07560558B2
3-Methyl-4-methylsulfanylphenol (1.00 g) was dissolved in dichloromethane (10 ml) to prepare a solution. Pyridine (724 mg) and acetyl chloride (615 mg) were added to the solution, and the mixture was stirred at room temperature overnight. The solvent was removed by distillation under the reduced pressure. Water was then added to the residue, and the mixture was extracted with chloroform. The chloroform layer was washed with water and was dried over anhydrous magnesium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was purified by column chromatography using chloroform to give 3-methyl-4-methylsulfanyl-phenyl acetate (1.00 g, yield 80%).

reactant | 3-Methyl-4-methylsulfanylphenol | 1.00 g | CC=1C=C(C=CC1SC)O | C8H10OS
reactant | Pyridine | 724 mg | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 615 mg | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-methyl-4-methylsulfanyl-phenyl acetate | 1.00 g, yield 80% | C(C)(=O)OC1=CC(=C(C=C1)SC)C | C10H12O2S
